US04810423
1,2β-methylen-4,5-epoxy-6-methylenandrostane-3,17-dione [II, R1 =CH2 ; R2 =H; (a)=double bond, (b)=single bond].
1,2β-methylen-6-methylenandrost-4-ene-3,17-dione (3.104 g, 10 mmol) is dissolved in 120 ml of methanol and cooled to 0° C. Thereupon ice cold 36% H2O2 (10 ml) and 2% NaOH (5 ml) is added gradually, the reaction mixture kept for about 20 hours at 5° C. and then poured into 900 ml of ice water. The raw product is filtered off, washed with water, dried and then chromatographed on silica gel using CHCl3 as eluant. Thus pure title compound is obtained in 60% yield (1.959 g).

reactant | 1,2β-methylen-6-methylenandrost-4-ene-3,17-dione | 10 mmol, 3.104 g | C1C2[C@H]1C(C=C1C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=C)=O | C21H26O2
reactant | NaOH | 5 ml | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | 1,2β-methylen-4,5-epoxy-6-methylenandrostane-3,17-dione | 60% yield | C1C2[C@H]1C(C1C3(C(C[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@H]4[C@@]23C)=O)=C)O1)=O | C21H26O3
